US06878706B1
To a stirred solution of the above 2-amino-1-morpholin-4-yl-ethanone hydrochloride (0.23 g, 1.3 mmol) in methylene chloride (4.0 mL) and triethylamine (0.19 mL, 1.4 mmol), 4 angstrom sieves (10 beads, pulverized to a powder) were added, followed by trimethylacetaldehyde (0.35 mL, 3.3 mmol) at room temperature, under argon. The resulting mixture was stirred at room temperature overnight after which time sodium triacetoxyborohydride (0.54 g, 2.6 mmol) was added. After 6 h, the solids were removed via filtration and washed with methylene chloride. The combined filtrates were concentrated and the remaining residue was diluted with EtOAc and water. The aqueous phase was lyophilized to give a white solid that was diluted with EtOAc. The solids were removed via filtration and washed with EtOAc. The combined organics were concentrated to give the crude product which was purified via silica gel flash chromatography eluting with 100% EtOAc, then 0.5% NH4OH/10% MeOH/EtOAc, flow rate 30 mL/min. The product-containing fractions were concentrated to give 0.18 g (67%) of 2-(2,2-dimethyl-propylamino)-1-morpholin-4yl-ethanone.

reactant | 2-amino-1-morpholin-4-yl-ethanone hydrochloride | 1.3 mmol, 0.23 g | Cl.NCC(=O)N1CCOCC1
reactant | triethylamine | 1.4 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylacetaldehyde | 3.3 mmol, 0.35 mL | CC(C=O)(C)C | C5H10O
reactant | sodium triacetoxyborohydride | 2.6 mmol, 0.54 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2,2-dimethyl-propylamino)-1-morpholin-4yl-ethanone | 0.18 g, 67% | CC(CNCC(=O)N1CCOCC1)(C)C | C11H22N2O2
